US06573293B2
3,5-Dimethyl-1H-pyrrole-2,4-dicarboxylic acid 2-tert-butyl ester 4-ethyl ester (2600 g) and ethanol (7800 mL) were stirred vigorously while 10 N hydrochloric acid (3650 mL) was slowly added. The temperature increased from 25° C. to 35° C. and gas evolution began. The mixture was warmed to 54° C. and stirred with further heating for one hour at which time the temperature was 67° C. The mixture was cooled to 5° C. and 32 L of ice and water were slowly added with stirring. The solid was collected by vacuum filtration and washed three times with water. The solid was air dried to constant weight to give of 2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester (1418 g, 87% yield) as a pinkish solid. 1H-NMR (dimethylsulfoxide-d6) δ 2.10, 2.35 (2×s, 2×3H, 2×CH3), 4.13 (q, 2H, CH2), 6.37 (s, 1H, CH), 10.85 (s, 1H, NH). MS m/z 167 [M+1].

reactant | 3,5-Dimethyl-1H-pyrrole-2,4-dicarboxylic acid 2-tert-butyl ester 4-ethyl ester | 2600 g | C(C)OC(=O)C=1C(=C(NC1C)C(=O)OC(C)(C)C)C | C14H21NO4
reactant | ethanol | 7800 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 10 N, 3650 mL | Cl | ClH
solvent | water | O | H2O
product | 2,4-dimethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1418 g, 87% yield | C(C)OC(=O)C1=C(NC=C1C)C | C9H13NO2
